US07202381B2
A. Acetic acid 4-{2-formylamino-3-oxo-3-[2-(5-phenyl-1H-imidazol-2-yl)-piperidin-1-yl]-propyl}-3,5-dimethyl-phenyl ester
To a solution of 0.7 mmol of acetic acid 4-{2-amino-3-oxo-3-[2-(5-phenyl-1H-imidazol-2-yl)-piperidin-1-yl]-propyl}-3,5-dimethyl-phenyl ester and 0.8 mL of formaldehyde, cooled in an ice bath under argon, was added 0.5 mL of acetic acid. The resulting mixture was allowed to slowly return to room temperature and stir overnight. The mixture was then extracted with ethyl acetate. The ethyl acetate was washed with water, dried over magnesium sulfate and concentrated to 0.39 g of an orange-yellow oil which was taken to the next step without further purification.

reactant | acetic acid 4-{2-amino-3-oxo-3-[2-(5-phenyl-1H-imidazol-2-yl)-piperidin-1-yl]-propyl}-3,5-dimethyl-phenyl ester | 0.7 mmol | NC(CC1=C(C=C(C=C1C)OC(C)=O)C)C(N1C(CCCC1)C=1NC(=CN1)C1=CC=CC=C1)=O | C27H32N4O3
reactant | formaldehyde | 0.8 mL | C=O | CH2O
solvent | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
product | Acetic acid 4-{2-formylamino-3-oxo-3-[2-(5-phenyl-1H-imidazol-2-yl)-piperidin-1-yl]-propyl}-3,5-dimethyl-phenyl ester | C(=O)NC(CC1=C(C=C(C=C1C)OC(C)=O)C)C(N1C(CCCC1)C=1NC(=CN1)C1=CC=CC=C1)=O | C28H32N4O4
